US04843165
2.3-Dihydro-5-hydroxy-1H-inden-1-carboxylic acid (V)
In a 20-liter reactor provided with a mechanical stirrer, 1.6 kg of 2,3-dihydro-5-methoxy-1H-inden-1-carboxylic acid and 8 l of 48% hydrobromic acid were introduced and heated at 135°-140° C. in oil bath for 15 hours. The mixture was allowed to cool, and the hydrobromic acid was evaporated at vacuum; to the blackish residue, 3 l of toluene were added and the solvent was evaporated at vacuum. This operation was made again with further 3 l of toluebe to give the desired compound as blackish solid, 1.5 kg (100%), m.p. 137°-138° C. and acid group titration: 101%.

reactant | 2,3-dihydro-5-methoxy-1H-inden-1-carboxylic acid | 1.6 kg | COC=1C=C2CCC(C2=CC1)C(=O)O | C11H12O3
reactant | hydrobromic acid | 8 l | Br | BrH
product | 2.3-Dihydro-5-hydroxy-1H-inden-1-carboxylic acid | OC=1C=C2CCC(C2=CC1)C(=O)O | C10H10O3
